US05143918
An ethereal solution of 17-ethyl-1-hydroxy-12-[2'-(3"-t-butyldimethylsilyloxy-4"-hydroxycyclohexyl)-1'-methylvinyl]-23,25-dimethoxy-13,19,21,27-tetramethyl-11,28-dioxa-4-azatricyclo[22.3.1.04,9 ]octacos-18-ene-2,3,10,16-tetraone is treated with diazomethane and BF3 etherate as in Example 67 to yield 17-ethyl-1-hydroxy-12-[2'-(3"-t-butyldimethylsilyloxy-4"-methoxycyclohexyl)-1'-methylvinyl]-23,25-dimethoxy-13,19,21,27-tetramethyl-11,28-dioxa-4-azatricyclo[22.3.1.04,9 ]octacos-18-ene-2,3,10,16-tetraone.

reactant | 17-ethyl-1-hydroxy-12-[2'-(3"-t-butyldimethylsilyloxy-4"-hydroxycyclohexyl)-1'-methylvinyl]-23,25-dimethoxy-13,19,21,27-tetramethyl-11,28-dioxa-4-azatricyclo[22.3.1.04,9 ]octacos-18-ene-2,3,10,16-tetraone | C(C)C1C(CCC(C(OC(C2CCCCN2C(C(C2(C(CC(C(C(CC(CC(=C1)C)C)OC)O2)OC)C)O)=O)=O)=O)C(=CC2CC(C(CC2)O)O[Si](C)(C)C(C)(C)C)C)C)=O | C48H81NO11Si
reactant | diazomethane | [N+](=[N-])=C | CH2N2
reactant | BF3 | B(F)(F)F | BF3
product | 17-ethyl-1-hydroxy-12-[2'-(3"-t-butyldimethylsilyloxy-4"-methoxycyclohexyl)-1'-methylvinyl]-23,25-dimethoxy-13,19,21,27-tetramethyl-11,28-dioxa-4-azatricyclo[22.3.1.04,9 ]octacos-18-ene-2,3,10,16-tetraone | C(C)C1C(CCC(C(OC(C2CCCCN2C(C(C2(C(CC(C(C(CC(CC(=C1)C)C)OC)O2)OC)C)O)=O)=O)=O)C(=CC2CC(C(CC2)OC)O[Si](C)(C)C(C)(C)C)C)C)=O | C49H83NO11Si
